* Z:\home\michel\Simulações_artigo\Incerteza de ganho Cs Co\Copy_of_montecarlo_nocs_noco\sim\montecarlo_tmp.asc
V1 VCC 0 5
V2 0 VEE 5
Vfi fi 0 PULSE(0 5 0 1n 1n 250u 500u)
Vteta teta 0 PULSE(0 5 0 1n 1n {theta} 500u)
VP vip 0 1.7
VN vin 0 1.6
Cs vcp vcn 100n
Ra vn N001 {mc(10k,r_tol)}
Co vo 0 10n
A2 0 N003 0 teta 0 nfpt N004 0 AND Vhigh=5 TD=5n
A3 0 fi 0 fi 0 N003 0 0 AND Vhigh=5 TD=5n
XU1 vp vn VCC VEE va OPA191
XX1 vip fi vcp NC_01 sw4522no
XX2 vin fi vcn NC_02 sw4522no
XX3 vcp fi vp NC_03 sw4521nc
XX4 va teta vo NC_04 sw4521nc
XX5 vp fi 0 NC_05 sw4522no
XX6 vn fi N002 NC_06 sw4522no
XX7 N001 nfpt 0 NC_07 sw4521nc
XX8 vcn fi 0 NC_08 sw4521nc
Ra1 va vn {mc(10k,r_tol)}

* block symbol definitions
.subckt sw4522no Vi Vc Vo vs
Cds Vo Vi 2p
S2 Vi Vo vs 0 SW1
A1 Vc 0 0 0 0 0 N002 0 BUF VHigh=5 TD=60n
D2 N002 N003 Ideal
A2 Vc 0 0 0 0 0 N001 0 BUF Vhigh=5 TD=20n
D3 vs N001 Ideal
C5 vs 0 0.1p
R1 vs N003 10k
Cd 0 Vo 2p
Cs 0 Vi 2p
.model sw1 sw(Ron=100 Roff=100G Vt=2.5 Vh=-0.5 Lser=0 Vser=0)
.model Ideal D(Ron=1 Roff=1G Vfwd=0 Vrev=10 Rrev=1G)
.ends sw4522no

.subckt sw4521nc Vi Vc Vo vs
Cds Vo Vi 2p
S2 Vi Vo vs 0 SW1
D2 N002 N003 Ideal
D3 vs N001 Ideal
C5 vs 0 0.1p
R1 vs N003 10k
Cd 0 Vo 2p
A3 Vc 0 0 0 0 N001 0 0 BUF Vhigh=5 TD=20n
A4 Vc 0 0 0 0 N002 0 0 BUF Vhigh=5 TD=60n
Cs 0 Vi 2p
.model sw1 sw(Ron=100 Roff=100G Vt=2.5 Vh=-0.5 Lser=0 Vser=0)
.model Ideal D(Ron=1 Roff=1G Vfwd=0 Vrev=10 Rrev=1G)
.ends sw4521nc

.model D D
.lib C:\users\michel\My Documents\LTspiceXVII\lib\cmp\standard.dio
.ic v(vo)=0
.save v(va) v(vo) v(vp) v(vn) v(vcp) v(vcn) v(vip) v(vin)
.option plotwinsize=0
;options NoOpIter
;options GminSteps=0
;options SrcSteps=0
.tran 0 1.500m 1.000m 50.0n startup
* +10n
* Differential
.param s_tol=0.21
.param r_tol=0.05
.param c_tol=0.05
;step param run 1 50 1
;step param theta list 400u 450u 490u
.param theta=490u
.options gmin=1e-10
.options abstol=1e-10
.options reltol=0.003
.options cshunt=1e-15
.lib C:\Program Files\LTC\LTspiceXVII\lib\sym\Opamps\OPA191.cir
.backanno
.end
